US04771046
1.03 g of trisodium phosphorothioate was added to a solution of 1.472 g of 2-(4-methoxyiminopiperidin-1-yl)-2-iminoethylchloride hydrochloride in 7 ml of water, kept cooled in ice-water, and the mixture was stirred at room temperature for about one hour. 5.7 ml of 1N hydrochloric acid were then added, followed by heating at 65° C. for 30 minutes. The resulting solution was concentrated under reduced pressure, mixed with ether, filtered to remove insolubles, and the filtrate concentrated under reduced pressure. The concentrate was mixed with isopropanol, and the crystals which separated out were collected by filtration and reprecipitated from a mixture of ethanol and ether, giving 850 mg of 2-(4-methoxyiminopiperidin-1-yl)-2-iminoethylmercaptan hydrochloride.

reactant | trisodium phosphorothioate | 1.03 g | P([O-])([O-])([O-])=S.[Na+].[Na+].[Na+]
reactant | 2-(4-methoxyiminopiperidin-1-yl)-2-iminoethylchloride hydrochloride | 1.472 g | Cl.CON=C1CCN(CC1)C(CCl)=N
reactant | hydrochloric acid | 1N, 5.7 ml | Cl | ClH
solvent | water | 7 ml | O | H2O
product | 2-(4-methoxyiminopiperidin-1-yl)-2-iminoethylmercaptan hydrochloride | 850 mg | Cl.CON=C1CCN(CC1)C(CS)=N | InChI=1S/C8H15N3OS.ClH/c1-12-10-7-2-4-11(5-3-7)8(9)6-13;/h9,13H,2-6H2,1H3;1H
